US06333349B1
A solution of 1.1 g (6.2 mmol) of 5-methylsulfonylamino-2,3,4,5-tetrahydro-1-benzoxepine in 15 ml of THF was added dropwise to a suspension of 0.23 g (6.2 mmol) of 80 percent sodium hydride in 10 ml of THF. After 2 h at RT, 0.94 g (6.7 mmol) of iodomethane were added and the mixture was stirred overnight at RT. After distilling off the solvent in vacuo, the residue was taken up in EA, and the solution was washed with dilute hydrochloric acid and water, dried over magnesium sulfate and concentrated. Subsequent recrystallization of the product from isopropanol yielded 0.5 g of 5-(N-methyl-N-methylsulfonylamino)-2,3,4,5-tetrahydro-1-benzoxepine, m.p. 143-145° C.

reactant | 5-methylsulfonylamino-2,3,4,5-tetrahydro-1-benzoxepine | 6.2 mmol, 1.1 g | CS(=O)(=O)NC1CCCOC2=C1C=CC=C2 | C11H15NO3S
reactant | sodium hydride | 6.2 mmol, 0.23 g | [H-].[Na+]
reactant | iodomethane | 6.7 mmol, 0.94 g | IC | CH3I
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-(N-methyl-N-methylsulfonylamino)-2,3,4,5-tetrahydro-1-benzoxepine | 0.5 g | CN(S(=O)(=O)C)C1CCCOC2=C1C=CC=C2 | C12H17NO3S
